US08623889B2
N-(7-(6-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
Sodium tertrahydroborate (10 mg, 0.27 mmol) was added to a solution of N-(7-(6-formyl-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide (45 mg, 0.14 mmol) in tetrahydrofuran (0.8 mL) cooled at 0° C. After 15 minutes, the reaction mixture was quenched with a few drops of water, diluted ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water with 0.1% formic acid over 14 min) to afford the title compound as an off-white solid (26 mg, 60%). 1H NMR (400 MHz, DMSO) δ 10.92 (s, 1H), 9.14 (s, 1H), 8.51 (s, 1H), 8.48 (d, J=5.0 Hz, 1H), 7.94 (m, 2H), 7.56 (d, J=8.5 Hz, 1H), 7.33 (d, J=5.0 Hz, 1H), 4.85 (t, J=5.3 Hz, 1H), 4.25 (d, J=5.2 Hz, 2H), 2.08 (m, 4H), 0.85 (m, 4H). LCMS (Method H): RT=2.40 min, M+H+=334.1.

reactant | Sodium | 0.27 mmol, 10 mg | [Na] | Na
reactant | N-(7-(6-formyl-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.14 mmol, 45 mg | C(=O)C1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H17N3O2
solvent | tetrahydrofuran | 0.8 mL | O1CCCC1 | C4H8O
product | N-(7-(6-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 26 mg, 60% | OCC1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H19N3O2
